US07179912B2
5-(4-(2-Methoxyphenyl)-piperazin-1-yl]-2-nitrophenylamine
A mixture of 5-chloro-2-nitrophenylamine (1.3 g, 7.0 mmol), 1-(2-methoxyphenyl)-piperazine hydrochloride (5.0 g, 20 mmol), and K2CO3 (4.0 g, 29 mmol) in DMF (20 mL) was stirred at 110° C. for 18 h. The reaction mixture was cooled to room temperature and poured into water (200 mL). The crude solid product was collected by filtration, air dried, and purified by trituration with CHCl3 (1.3 g, 57%).

reactant | 5-chloro-2-nitrophenylamine | 7.0 mmol, 1.3 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-(2-methoxyphenyl)-piperazine hydrochloride | 20 mmol, 5.0 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | K2CO3 | 29 mmol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(4-(2-Methoxyphenyl)-piperazin-1-yl]-2-nitrophenylamine | COC1=C(C=CC=C1)N1CCN(CC1)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C17H20N4O3
